US09126948B2
Step F: 1-(4,5-Dichloro-3-iodo-2-methoxyphenyl)ethanamine
A solution of 1-(1-azidoethyl)-4,5-dichloro-3-iodo-2-methoxybenzene (3.3 g, 8.9 mmol) in tetrahydrofuran (20 mL) and water (6.4 mL) was treated with 1.0 M trimethylphosphine in tetrahydrofuran (11 mL, 11 mmol) and stirred at 20° C. for 1.5 hours. The reaction mixture was concentrated, diluted with ethyl acetate and extracted with 1 M HCl (2×). The combined aqueous layers were neutralized with solid sodium bicarbonate, and extracted with ethyl acetate (2×). The combined organic extracts were washed with brine, dried with magnesium sulfate, filtered, and concentrated to give the desired product (2.2 g, 72%). This material was used without further purification. LCMS for C9H8Cl2IO (M−NH2)+: m/z=328.9, 330.9. Found: 328.8, 330.8.

reactant | 1-(1-azidoethyl)-4,5-dichloro-3-iodo-2-methoxybenzene | 8.9 mmol, 3.3 g | N(=[N+]=[N-])C(C)C1=C(C(=C(C(=C1)Cl)Cl)I)OC | C9H8Cl2IN3O
reactant | trimethylphosphine | 1.0 M | CP(C)C | C3H9P
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 6.4 mL | O | H2O
solvent | tetrahydrofuran | 11 mmol, 11 mL | O1CCCC1 | C4H8O
product | 1-(4,5-Dichloro-3-iodo-2-methoxyphenyl)ethanamine | 2.2 g, 72% | ClC1=C(C(=C(C=C1Cl)C(C)N)OC)I | C9H10Cl2INO
